US04140789
A mixture of 9.0 g of 1-allyloxy-2,3-dinitrobenzene and 40 ml of n-butylamine in 400 ml of isopropanol is heated under reflux, and stirred, for two hours. After evaporating off the solvent and the excess n-butylamine under reduced pressure, the resulting oil is dried at 50°/0.01 mm Hg for 2 hours. The 1-allyloxy-2-butylamino-3-nitrobenzene which is thus obtained can be further used without purification.

reactant | 1-allyloxy-2,3-dinitrobenzene | 9.0 g | C(C=C)OC1=C(C(=CC=C1)[N+](=O)[O-])[N+](=O)[O-] | C9H8N2O5
reactant | n-butylamine | 40 ml | C(CCC)N | C4H11N
solvent | isopropanol | 400 ml | C(C)(C)O | C3H8O
product | 1-allyloxy-2-butylamino-3-nitrobenzene | C(C=C)OC1=C(C(=CC=C1)[N+](=O)[O-])NCCCC | C13H18N2O3
